US07435735B2
Step 1: 1-Pyridin-2-ylpiperazin-2-one
A mixture of 4-benzyloxycarbonyl-1-methyl-pyrazin-2(1H)-one (3.0 g, 12.8 mmol), 2-bromopyridine (2.02 g, 12.8 mmol), palladium acetate (0.29 g, 1.28 mmol), xantphos (1.11 g, 1.92 mmol), cesium carbonate (6.26 g, 19.2 mmol) in anhydrous dioxane (13 mL) in a sealed vessel was heated in an oil bath at 110° C. for 6 hrs. The resultant reaction mixture was cooled to room temperature, diluted with dichloromethane, filtered, and concentrated under vacuum. The residual solid was subjected to column chromatography on silica gel eluting with a ethyl acetate-hexane gradient. Concentration of appropriate fractions provide the pyridine intermediate. A mixture of 4-benzyloxycarbonyl-1-pyridin-2-ylpiperazin-2-one (1.50 g, 4.94 mmol) and Pearlmans catalyst (0.7 g) in ethanol (50 mL) was stirred under an atmosphere of hydrogen (1 atm) at room temperature for one hour. The product mixture was filtered through a pad of Celite, and concentrated under vacuum to provide the titled compound.

reactant | 4-benzyloxycarbonyl-1-methyl-pyrazin-2(1H)-one | 12.8 mmol, 3.0 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(C=C1)C)=O | C13H14N2O3
reactant | 2-bromopyridine | 12.8 mmol, 2.02 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | xantphos | 1.92 mmol, 1.11 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 19.2 mmol, 6.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-benzyloxycarbonyl-1-pyridin-2-ylpiperazin-2-one | 4.94 mmol, 1.50 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C1=NC=CC=C1)=O | C17H17N3O3
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pearlmans catalyst | 0.7 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium acetate | 1.28 mmol, 0.29 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Pyridin-2-ylpiperazin-2-one | N1=C(C=CC=C1)N1C(CNCC1)=O | C9H11N3O
